US06410732B2
Synthesis of N-[4-(Benzothiazol-2-yl)-phenyl]acridan
A mixture of 3.74 g of acridan (20 mmol), 69 mg of Pd(OAc)2 (0.3 mmol), 44 mg of tri-t-butylphosphine (0.22 mmol), 2.88 g of sodium t-butoxide (30 mmol), and 6.0 g of 2-(4-bromophenyl)benzothiazole (20 mmol) in 60 mL of toluene was stirred at room temperature for 1 h under inert atmosphere, followed by heating at 50° C. for 1 h. The reaction mixture was cooled to room temperature, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography with 15% ethyl acetate in hexanes. NMR analysis confirmed that 3.1 g of the N-arylated acridan product was isolated.

reactant | acridan | 20 mmol, 3.74 g | C1=CC=CC=2NC3=CC=CC=C3CC12 | C13H11N
reactant | tri-t-butylphosphine | 0.22 mmol, 44 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 30 mmol, 2.88 g | CC(C)([O-])C.[Na+]
reactant | 2-(4-bromophenyl)benzothiazole | 20 mmol, 6.0 g | BrC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H8BrNS
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.3 mmol, 69 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-[4-(Benzothiazol-2-yl)-phenyl]acridan | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)N2C=1C=CC=CC1CC1=CC=CC=C21 | C26H18N2S
